US08609647B2
(1) Piperidine-1,3-dicarboxylic acid 3-((Z)-but-2-enyl)ester 1-tert-butyl ester
To a solution of 1-(t-butoxycarbonyl)-3-piperidinecarboxylic acid (60.0 g) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (55.2 g) in chloroform (600 ml) was added 4-dimethylaminopyridine (35.2 g), and the mixture was stirred for 70 minutes. To the mixture was added (Z)-but-2-en-1-ol (26.8 ml), and the mixture was stirred at room temperature for 14 hours. To the reaction mixture were added water (300 ml) and saturated aqueous sodium chloride solution (100 ml), and the mixture was extracted with chloroform. The separated organic layer was concentrated under reduced pressure, and to the resulting residue were added ethyl acetate and n-hexane. The mixture was sequentially washed with 3.5% aqueous potassium bisulfate solution three times and saturated aqueous sodium chloride solution twice. To the separated organic layer was added silica gel (200 ml), and the mixture was stirred and filtered through Celite. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1) to give the titled compound (68.3 g).

reactant | 1-(t-butoxycarbonyl)-3-piperidinecarboxylic acid | 60.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 55.2 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (Z)-but-2-en-1-ol | 26.8 ml | C(\C=C/C)O | C4H8O
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 35.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 300 ml | O | H2O
product | Piperidine-1,3-dicarboxylic acid 3-((Z)-but-2-enyl)ester 1-tert-butyl ester | 68.3 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)OC\C=C/C | C15H25NO4
